US07470705B2
Step 2. Preparation of (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Heat at 120° C. a mixture of (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-cyano-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (100 mg, 0.184 mmol), sodium azide (17 mg, 0.258 mmol) and triethyl amine hydrochloride (35 mg, 0.258 mmol) in dry toluene under an atmosphere of nitrogen for 8 h. Then add more sodium azide (6 mg) and triethyl amine hydrochloride (13 mg) and heat the mixture for 4 h. Cool to room temperature, dilute with ethyl acetate, and wash with 1 N HCl. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (61 mg, 50%). MS (ES+): 588 (M+H).

reactant | (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-cyano-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.184 mmol, 100 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(C#N)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H26F6N4O3
reactant | sodium azide | 0.258 mmol, 17 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethyl amine hydrochloride | 0.258 mmol, 35 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 6 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethyl amine hydrochloride | 13 mg | Cl.C(C)N(CC)CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 61 mg, 50% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N(C=1N=NNN1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H27F6N7O3
